US04705851
To a solution of benzhydryl (6R,7R)-3-hydroxymethyl-8-oxo-7-salicylideneamino-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylate (33 g) and triphenylphosphine (37.2 g) in N,N-dimethylformamide (90 ml) was added dropwise a solution of iodine (19.5 g) in tetrahydrofuran (30 ml) at 15° C., and the mixture was stirred for 15 minutes. The reaction mixture was poured into isopropyl alcohol (1200 ml) and then stirred for 2 hours. The precipitated crystals were collected by filtration to give (6R,7R)-2-benzhydryloxycarbonyl-8-oxo-7-salicylideneamino-5-thia-1-azabicyclo[4.2.0]oct-2-ene-3-ylmethyl-triphenyl-phosphonium iodide almost quantitatively.

reactant | benzhydryl (6R,7R)-3-hydroxymethyl-8-oxo-7-salicylideneamino-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylate | 33 g | OCC1=C(N2C([C@H]([C@H]2SC1)N=CC=1C(O)=CC=CC1)=O)C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1 | C28H24N2O5S
reactant | triphenylphosphine | 37.2 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | iodine | 19.5 g | II | I2
reactant | isopropyl alcohol | 1200 ml | C(C)(C)O | C3H8O
solvent | N,N-dimethylformamide | 90 ml | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | (6R,7R)-2-benzhydryloxycarbonyl-8-oxo-7-salicylideneamino-5-thia-1-azabicyclo[4.2.0]oct-2-ene-3-ylmethyl-triphenyl-phosphonium iodide | [I-].C(C1=CC=CC=C1)(C1=CC=CC=C1)OC(=O)C=1N2C([C@H]([C@H]2SCC1C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)N=CC=1C(O)=CC=CC1)=O | InChI=1S/C46H37N2O4PS.HI/c49-40-29-17-16-22-35(40)30-47-41-44(50)48-42(46(51)52-43(33-18-6-1-7-19-33)34-20-8-2-9-21-34)36(32-54-45(41)48)31-53(37-23-10-3-11-24-37,38-25-12-4-13-26-38)39-27-14-5-15-28-39;/h1-30,41,43,45H,31-32H2;1H/t41-,45-;/m1./s1
